US05710150
Methyl (Z)-[4,4-difluoro-1-[4-(2phenylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-1-benzazepin-5-ylidene]acetate (857 mg) was dissolved in 10 ml of methanol, 2 ml of aqueous solution containing 195 mg of lithium hydroxide monohydrate was added dropwise to the above solution under ice-cooling, and the mixture was stirred at room temperature for 7 hours. After evaporating the solvent under a reduced pressure, 1N hydrochloric acid aqueous solution was added, and the mixture was extracted with chloroform and dried over anhydrous magnesium sulfate. After evaporation of the solvent under a reduced pressure, the resulting residue was recrystallized from ethyl acetatehexane to obtain 633 mg of (Z)-[4,4-difluoro-1-[4-(2-phenylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-1-benzazepin-5-ylidene]acetic acid.

reactant | Methyl (Z)-[4,4-difluoro-1-[4-(2phenylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-1-benzazepin-5-ylidene]acetate | 857 mg | FC\1(CCN(C2=C(/C1=C/C(=O)OC)C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C2=CC=CC=C2)=O)=O)F | C33H26F2N2O4
reactant | lithium hydroxide monohydrate | 195 mg | O.[OH-].[Li+]
solvent | methanol | 10 ml | CO | CH4O
product | (Z)-[4,4-difluoro-1-[4-(2-phenylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-1-benzazepin-5-ylidene]acetic acid | 633 mg | FC\1(CCN(C2=C(/C1=C/C(=O)O)C=CC=C2)C(C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C2=CC=CC=C2)=O)=O)F | C32H24F2N2O4
